US07544682B2
2.1 Methyl 5-nitro-1,3-benzodioxole-2-carboxylate
31.0 g of 4-nitrocatechol was added to 17.6 g of 60% NaH in suspension in 300 ml of DMF over 1 hour, with cooling to keep the temperature below 30° C. Stirring was continued for 15 minutes then 104 ml of methyl dichloroacetate was added over 1 hour, and stirring was continued for 4 hours at 90° C. The reaction medium was poured over a mixture of 2 liters of ice/water then extracted 4 times with 400 ml of AcOEt. The combined organic phases were washed once with a saturated NaCl solution then dried and concentrated under vacuum (DMF evaporated off). The residue was taken up in a AcOEt/H2O mixture and the pH was brought to 8.6 using Na2CO3; the organic phase was decanted, washed with saturated NaHCO3, H2O, 5% KHSO4/K2SO4, H2O, saturated NaCl then dried and vacuum evaporated; a semi-solid residue was obtained which was taken up then triturated in heptane to produce a solid. m=27.7 g, MP=90-92° C.

reactant | 4-nitrocatechol | 31.0 g | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | NaH | 17.6 g | [H-].[Na+]
reactant | methyl dichloroacetate | 104 ml | ClC(C(=O)OC)Cl | C3H4Cl2O2
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | Methyl 5-nitro-1,3-benzodioxole-2-carboxylate | [N+](=O)([O-])C1=CC2=C(OC(O2)C(=O)OC)C=C1 | C9H7NO6
